Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
tachycardia
 
Major Surgical or Invasive Procedure:
TEE/DCCV (___)

 
History of Present Illness:
___ with hx of hypertension presenting with aflutter w/RVR at 
routine physical, refractory to metoprolol 25mg po. He had no 
symptoms, though noted that sometimes when he is relaxing he 
could tell that his heart was racing. It is unclear how long he 
has been in this heart rhythm.  

In the ED initial vitals were: T: 98.8 HR: 138 BP: 141/111 RR: 
18 Sp02: 98% RA  
EKG (___): Aflutter with 2:1 conduction with occasional PVC 
without compensatory pause.  

Labs/studies notable for:  
- Normal chemistry panel (Cr 1.0)  
- Mild leukocytosis to 11.3 (71% N).  
- INR 1.0  
- Infectious w/u notable for negative UA, CXR showing no acute 
infectious process.  

Patient was given:  
 ___ 15:07 IVF 1000 mL NS 1000 mL  
 ___ 15:07 IV Diltiazem 20 mg  
 ___ 15:32 PO/NG Diltiazem 30 mg  
 ___ 16:49 IV Diltiazem 20 mg  
 ___ 20:42 PO/NG Rivaroxaban 20 mg
 
Vitals on transfer: 97.8 68 139/68 16 100% RA  
On the floor, he has no complaints. ROS notable for occasional 
palpitations and orthostasis when bending down. He denies 
dyspnea on exertion, orthopnea, ___ edema. He denies chest pain, 
but does admit to ___ episodes of presumed heartburn over the 
last 1 month. All episodes occurred at  night while laying down. 
___ episodes occurred after a large meal. He denies any chest 
pain on exertion. 

 
Past Medical History:
 1. CARDIAC RISK FACTORS: +hypertension, +dyslipidemia, 
-diabetes  
 2. CARDIAC HISTORY:  
 - CABG: None  
 - PERCUTANEOUS CORONARY INTERVENTIONS: None  
 - PACING/ICD: None  
 3. OTHER PAST MEDICAL HISTORY:  
 OSA (not on CPAP)
 Anxiety  
 HLD  
 LUTS  
 Atrial Flutter (unknown time course)  
 
Social History:
___
Family History:
Father with CAD (had CABG @ 78), HTN, colonic polyps. 
 
Physical Exam:
ADMISSION
VS: 97.7 149/69 89 100RA
GENERAL: WDWN in NAD. Oriented x3. Mood, affect appropriate.  
HEENT: NCAT. Sclera anicteric. PERRL, EOMI. Conjunctiva were 
pink, no pallor or cyanosis of the oral mucosa. No xanthelasma.  

NECK: Supple with JVP of 7 cm.  
CARDIAC: PMI located in ___ intercostal space, midclavicular 
line. RR, normal S1, S2. No murmurs/rubs/gallops. No thrills, 
lifts.  
LUNGS: No chest wall deformities, scoliosis or kyphosis. Resp 
were unlabored, no accessory muscle use. No crackles, wheezes or 
rhonchi.  
ABDOMEN: Soft, NTND. No HSM or tenderness.  
EXTREMITIES: No c/c/e. No femoral bruits.  
SKIN: No stasis dermatitis, ulcers, scars, or xanthomas.  
PULSES: Distal pulses palpable and symmetric  

DISCHARGE
VS stable
Genl: NAD
HEENT: PERRL, no icterus, MMM
Neck: No JVD
Cor: RRR NMRG
Pulm: CTAB
Abd: soft, ntnd
MSK: wwp, no ___ edema
Neuro: AOx3
 
Pertinent Results:
===========
LABS
===========

___ 03:02PM BLOOD WBC-11.3* RBC-5.12 Hgb-15.3 Hct-47.2 
MCV-92 MCH-29.9 MCHC-32.4 RDW-13.7 RDWSD-46.5* Plt ___
___ 03:02PM BLOOD Neuts-71.2* Lymphs-17.3* Monos-10.0 
Eos-0.5* Baso-0.5 Im ___ AbsNeut-8.00* AbsLymp-1.95 
AbsMono-1.13* AbsEos-0.06 AbsBaso-0.06
___ 06:30AM BLOOD WBC-8.3 RBC-4.69 Hgb-14.1 Hct-44.3 MCV-95 
MCH-30.1 MCHC-31.8* RDW-14.1 RDWSD-49.2* Plt ___

___ 03:02PM BLOOD ___ PTT-29.7 ___
___ 06:30AM BLOOD ___ PTT-37.7* ___

___ 03:02PM BLOOD Glucose-113* UreaN-22* Creat-1.0 Na-136 
K-4.3 Cl-97 HCO3-26 AnGap-17
___ 06:30AM BLOOD Glucose-96 UreaN-16 Creat-1.1 Na-139 
K-5.0 Cl-102 HCO3-27 AnGap-15

___ 03:02PM BLOOD Calcium-10.3 Phos-3.9 Mg-2.2
___ 06:30AM BLOOD Calcium-9.5 Phos-3.7 Mg-2.1

===========
MICRO
===========
None

===========
STUDIES
===========

___ Imaging CHEST (PA & LAT) 
No acute cardiopulmonary process. 

___ Cardiovascular ECHO 
Conclusions   
 No mass/thrombus is seen in the left atrium or left atrial 
appendage. No atrial septal defect is seen by 2D or color 
Doppler. Left ventricular wall thickness, cavity size, and 
global systolic function are normal (LVEF>55%). Right 
ventricular chamber size and free wall motion are normal. The 
ascending, transverse and descending thoracic aorta are normal 
in diameter and free of atherosclerotic plaque to 40 cm from the 
incisors. The aortic valve leaflets (3) appear structurally 
normal with good leaflet excursion. No masses or vegetations are 
seen on the aortic valve. There is no aortic valve stenosis. 
Trace aortic regurgitation is seen. The mitral valve appears 
structurally normal with trivial mitral regurgitation. No mass 
or vegetation is seen on the mitral valve. There is no 
pericardial effusion. 
 PRELIMINARY REPORT developed by a Cardiology Fellow. Not 
reviewed/approved by the Attending Echo Physician.   

 
Brief Hospital Course:
___ with hx of hypertension presenting with aflutter w/RVR at 
routine physical, refractory to metoprolol 25mg po. Referred to 
___ ED and admitted to Cardiology service, where he underwent 
TEE (no ___ and successful cardioversion (return to 
SR). He was discharged on rivaroxaban 20 daily, metop succinate 
25 daily. He can follow up with cardiology and PCP.

ACTIVE
# Aflutter: sent by PCP for tachycardia, never symptomatic or 
with hemodynamic instability. s/p TEE/DCCV. Home on rivaroxaban 
20 and metoprolol succinate 25. following up with Dr. ___.

# HTN: cont lisinopril

# CAD prevention: hold ASA given rivaroxaban

TRANSITIONAL
Follow up: PCP, ___
At follow up appointments:
- metoprolol: ensure no sinus brady
- BP: ensure no hypoTN with addition of metop
If further palpitations may require Holter monitoring
Should likely have TTE to eval for structural heart disease
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Lisinopril 20 mg PO DAILY 
2. Lunesta (eszopiclone) 2 mg oral QHS:PRN insomnia 
3. Vitamin D 1000 UNIT PO DAILY 
4. Ascorbic Acid ___ mg PO DAILY 
5. Multivitamins 1 TAB PO DAILY 
6. Aspirin 81 mg PO DAILY 

 
Discharge Medications:
1.  Metoprolol Succinate XL 25 mg PO DAILY 
RX *metoprolol succinate 25 mg 1 tablet(s) by mouth daily Disp 
#*30 Tablet Refills:*0 
2.  Rivaroxaban 20 mg PO DINNER 
Daily with the evening meal. 
RX *rivaroxaban [Xarelto] 20 mg 1 tablet(s) by mouth daily Disp 
#*30 Tablet Refills:*0 
3.  Ascorbic Acid ___ mg PO DAILY  
4.  Lisinopril 20 mg PO DAILY  
5.  Lunesta (eszopiclone) 2 mg oral QHS:PRN insomnia  
6.  Multivitamins 1 TAB PO DAILY  
7.  Vitamin D 1000 UNIT PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
atrial flutter

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

You were seen at ___ for a fast heart rate called atrial 
flutter. The best treatment for this is to restore a normal 
heart rhythm with electricity (cardioversion). We checked for 
any blood clots that could cause a stroke beforehand 
(trans-esophageal echocardiography), and none were present. You 
underwent successful cardioversion. You are now safe to go home.

You will need to take blood thinning medication in case the 
abnormal heart rhythm recurs; you should also take metoprolol (a 
medication that slows the heart rate). Please stop aspirin for 
now.

Call Dr. ___ go to the Emergency Department if you develop 
lightheadedness, dizziness, chest pain, severe palpitations, or 
any other symptoms that concern you.

It has been our pleasure caring for you.

Sincerely,
Your ___ Cardiology Team
 
Followup Instructions:
___